US07235560B2
2-Methylsulfanyl-4-(5-methylsulfanyl-pyridin-2-yl)-6-trifluoromethyl-pyrimidine
To a solution of 4,4,4-trifluoro-1-(5-methylsulfanyl-pyridin-2-yl)-butane-1,3-dione (0.600 g, 2.28 mmol) in glacial acetic acid (6 mL) was added 2-methyl 2-thiopseudourea sulphate (0.761 g, 2.74 mmol) and sodium acetate (0.224 g, 2.74 mmol). The reaction was heated to 120° C. under nitrogen for 21 hours. The reaction was allowed to cool before the addition of water (10 mL), leading to precipitation of a solid. The reaction mixture was poured onto water (10 mL) and stirred for 15 minutes at 22° C. The precipitate was filtered from the aqueous solution, washed with water, and dried in vacuo to yield the title compound as a grey solid: MS m/z 317 (M+1).

reactant | 4,4,4-trifluoro-1-(5-methylsulfanyl-pyridin-2-yl)-butane-1,3-dione | 2.28 mmol, 0.600 g | FC(C(CC(=O)C1=NC=C(C=C1)SC)=O)(F)F | C10H8F3NO2S
reactant | 2-methyl 2-thiopseudourea sulphate | 2.74 mmol, 0.761 g | S(=O)(=O)(O)O.CSC(N)=N
reactant | sodium acetate | 2.74 mmol, 0.224 g | C(C)(=O)[O-].[Na+]
reactant | water | 10 mL | O | H2O
solvent | acetic acid | 6 mL | C(C)(=O)O | C2H4O2
product | 2-Methylsulfanyl-4-(5-methylsulfanyl-pyridin-2-yl)-6-trifluoromethyl-pyrimidine | CSC1=NC(=CC(=N1)C1=NC=C(C=C1)SC)C(F)(F)F | C12H10F3N3S2
